US07405210B2
Preparation 97: 2-(2-Oxo-2-pyridin-3-yl-ethyl)isoindole-1,3-dione
A solution of bromomethylpyridin-3-yl ketone (4.55 g, 16.2 mmol) and potassium phthalimide (6.0 g, 32.4 mmol) in DMF (50 mL) was stirred for 3 days at rt before the added to diluted brine (500 ml, 1:1). The solution was made acidic (pH 2) with diluted hydrochloric acid (1M) before washed with ethyl acetate (2×100 ml). The aqueous layer was then made alkaline (pH 12) again with sodium hydroxide solution (2 M) and extracted with DCM (4×200 ml). The extracts were combined and dried (MgSO4) before concentrated in vacuo. Recrystallisation from methanol (2×) allows to remove crystalline phthalimide and to enrich the title compound in the mother liquer. The crude product was used in Preparation 98 without further purification. δH (d6 DMSO): 5.33 (2H, s), 7.64 (1H, dd), 7.92, 7.97 (4H, 2m), 8.43 (1H, m), 8.88 (1H, m), 9.28 (1H, s); m/z (ES+)=308.13 [M+MeCN +H]+; RT=2.39 min.

reactant | bromomethylpyridin-3-yl ketone | 16.2 mmol, 4.55 g | BrCC(=O)C=1C=NC=CC1 | C7H6BrNO
reactant | potassium phthalimide | 32.4 mmol, 6.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | MeCN | CC#N | C2H3N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | brine | 500 ml | [Cl-].[Na+].O
product | 2-(2-Oxo-2-pyridin-3-yl-ethyl)isoindole-1,3-dione | O=C(CN1C(C2=CC=CC=C2C1=O)=O)C=1C=NC=CC1 | C15H10N2O3
